US08211914B2
Lithium bis(trimethylsilyl)amide (1M in THF, 10.5 mL, 10.5 mmol) was added to N-(diphenylmethylene)glycine benzyl ester (3.28 g, 10 mmol) in tetrahydrofuran (10 mL) at −78° C. under argon. The reaction mixture was stirred at this temperature for about 1 hr. Propionyl chloride (0.913 mL, 10.5 mmol) in tetrahydrofuran (5 mL) was slowly added into the above mixture and stirred for 30 minutes. The reaction mixture was warmed up to room temperature and let stir overnight. After the completion of the above reaction, the reaction mixture was cooled to −40° C. quenched with 50 mL dilute hydrochloride acid (3N) and stirred at room temperature for 2 hr. After removal of tetrahydrofuran, the aqueous solution was extracted with ethyl acetate (3×50 mL), ether (1×50 mL) and CH2Cl2 (50 mL). The aqueous solution was concentrated in vacuo to about ½ volume and lyophilized to give 2-amino-4-methyl-3-oxo-butanoic acid benzyl ester hydrochloride salt, which was used in the next step without further purification.

reactant | Lithium bis(trimethylsilyl)amide | 10.5 mmol, 1M, 10.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-(diphenylmethylene)glycine benzyl ester | 10 mmol, 3.28 g | C(C1=CC=CC=C1)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H19NO2
reactant | Propionyl chloride | 10.5 mmol, 0.913 mL | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-amino-4-methyl-3-oxo-butanoic acid benzyl ester hydrochloride salt | Cl.C(C1=CC=CC=C1)OC(C(C(CC)=O)N)=O | InChI=1S/C12H15NO3.ClH/c1-2-10(14)11(13)12(15)16-8-9-6-4-3-5-7-9;/h3-7,11H,2,8,13H2,1H3;1H
